US05693648
To a stirred solution of tri(6-tert-butyldimethylsilyloxynaphth-2-yl)bismuthine (252 mg, 0.257 mmol, 2 eq) in methylene chloride (4 mL) was added peracetic acid (0.054 mL, 0.257 mmol, 2 eq, 32% solution in dilute acetic acid). To this stirred solution was added 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.126 mmol, 1 eq), THF (0.5 mL ), and copper (II) acetate (7 mg, 0.038 mmol, 0.3 eq). The mixture was allowed to stir for 7 days. The reaction was quenched with saturated aqueous NaCl plus 2 drops 2N HCl and extracted 4× with methylene chloride. The organic extracts were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The products were separated by preparative TLC on silica gel (2:1 hexanes/acetone) affording 39.8 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(6'"-tert-butyldimethylsilyloxynaphth-2-yloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone and 41.6 mg. of 17-ethyl-1,14-dihydroxy-12-[2'-(3"-(6'"-tert-butyldimethylsilyloxynaphth-2-yl-oxy)-4"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR and mass spectral analysis were consistent with the desired structures).

reactant | tri(6-tert-butyldimethylsilyloxynaphth-2-yl)bismuthine | 0.257 mmol, 252 mg, 2 eq | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)[Bi](C1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C(C)(C)C)C1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C(C)(C)C
reactant | peracetic acid | 0.257 mmol, 0.054 mL, 2 eq | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)O)C)C)O)=O | C42H67NO12
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 0.038 mmol, 7 mg, 0.3 eq | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(6'"-tert-butyldimethylsilyloxynaphth-2-yloxy)-3"-hydroxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 39.8 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC1=CC=C(C=C1C=C2)O[Si](C)(C)C(C)(C)C)O)C)C)O)=O | C58H87NO13Si
